US05149357
A stirred solution of 143.6 grams (0.772 mole) of 4,6-dimethoxy-2-methylthiopyrimidine in 460 mL of tetrahydrofuran was cooled to 10°-15° C., and a cloudy solution of 525.0 grams (0.849 mole) of 80% monoperoxyphthalio acid, magnesium salt hexahydrate in 600 mL of methanol was added at a rate to maintain the reaction mixture temperature below 15° C. Upon completion of the addition, which required one hour, the reaction mixture was cooled, and 500 mL of aqueous 1M sodium sulfite solution was added dropwise to destroy excess peroxides present in the reaction mixture. Upon completion of addition, the reaction mixture was stirred for 15 minutes and then was concentrated under reduced pressure to a residue. The residue was stirred in 2500 mL of ethyl acetate and 1500 mL of water. The layers were separated, and the aqueous layer was extracted with 450 mL of ethyl acetate. The ethyl acetate layers were combined and washed with one 500 mL portion of water, two 350 mL portions of aqueous 20% potassium carbonate, two 350 mL portions of water, and one 300 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 123.3 grams of 4,6-dimethoxy-2-methylsulfonylpyrimidine; m.p. 126°-127.5° C. The reaction was repeated several times.

reactant | 4,6-dimethoxy-2-methylthiopyrimidine | 0.772 mole, 143.6 grams | COC1=NC(=NC(=C1)OC)SC | C7H10N2O2S
reactant | sodium sulfite | 1M | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 460 mL | O1CCCC1 | C4H8O
solvent | methanol | 600 mL | CO | CH4O
product | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 123.3 grams | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
